** sch_path: /home/ee431/workspace/6SAR_CDAC/CDAC_4bit_VCM_simplified.sch
**.subckt CDAC_4bit_VCM_simplified Vin clk clkbar vcm VDD b3 b2 b1 Vout b0 VSS
*.ipin Vin
*.ipin clk
*.ipin clkbar
*.ipin vcm
*.iopin VDD
*.ipin b3
*.ipin b2
*.ipin b1
*.iopin Vout
*.ipin b0
*.iopin VSS
XC1 net5 Vout sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
XC2 net1 Vout sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
x2 clkbar vcm Vout VDD clk VSS T_gate
x3 clkbar VDD VSS clk b0 net1 Vin SPDT
XC3 net2 Vout sky130_fd_pr__cap_mim_m3_1 W=10 L=5 MF=1 m=1
x4 clkbar VDD VSS clk b1 net2 Vin SPDT
XC4 net3 Vout sky130_fd_pr__cap_mim_m3_1 W=10 L=10 MF=1 m=1
x5 clkbar VDD VSS clk b2 net3 Vin SPDT
XC5 net4 Vout sky130_fd_pr__cap_mim_m3_1 W=20 L=10 MF=1 m=1
x6 clkbar VDD VSS clk b3 net4 Vin SPDT
x1 clkbar VDD VSS clk VSS net5 Vin SPDT
**.ends

* expanding   symbol:  /home/ee431/workspace/6SAR_CDAC/T_gate.sym # of pins=6
** sym_path: /home/ee431/workspace/6SAR_CDAC/T_gate.sym
** sch_path: /home/ee431/workspace/6SAR_CDAC/T_gate.sch
.subckt T_gate c out in Vdd cbar Vss
*.ipin in
*.ipin cbar
*.ipin c
*.iopin Vdd
*.iopin Vss
*.iopin out
XM1 in c out Vss sky130_fd_pr__nfet_g5v0d10v5 L=1 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 out cbar in Vdd sky130_fd_pr__pfet_g5v0d10v5 L=1 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  /home/ee431/workspace/6SAR_CDAC/SPDT.sym # of pins=7
** sym_path: /home/ee431/workspace/6SAR_CDAC/SPDT.sym
** sch_path: /home/ee431/workspace/6SAR_CDAC/SPDT.sch
.subckt SPDT cbar vdd vss c in1 out in2
*.ipin in1
*.ipin in2
*.ipin c
*.ipin cbar
*.opin out
*.iopin vdd
*.iopin vss
x1 c out in1 vdd cbar vss T_gate
x2 cbar out in2 vdd c vss T_gate
.ends

.end
